US06037354
To a solution of (4S,5R) 4-(3,4-difluorophenyl)-5-hydroxymethyl-oxazolidin-2-one (695 mg, 3.0 mmol) in dry dichloromethane (30 mL) was added 2,3-dihydropyran (0.3 mL, 3.6 mmol) and camphorsulfonic acid (70 mg, 0.3 mmol). The reaction mixture was stirred at ambient temperature for 3 h. The reaction mixture was diluted with dichloromethane (100 mL) and washed with saturated sodium bicarbonate solution (2×100 ml), brine (1×100 ml), dried over magnesium sulfate and filtered. The volatiles were removed under reduced pressure and the resulting solid was purified by pressurized silica gel chromatography (1:1 then 2:1 ethyl acetate:hexane) to afford (4S,5R)-4-(3,4-difluorophenyl)-5-(tetrahydropyran-2-yloxymethyl)-oxazolidin-2-one as a colorless oil (750 mg, 2.4 mmol, 80%).

reactant | (4S,5R) 4-(3,4-difluorophenyl)-5-hydroxymethyl-oxazolidin-2-one | 3.0 mmol, 695 mg | FC=1C=C(C=CC1F)[C@@H]1NC(O[C@H]1CO)=O | C10H9F2NO3
reactant | 2,3-dihydropyran | 3.6 mmol, 0.3 mL | O1CCCC=C1 | C5H8O
reactant | camphorsulfonic acid | 0.3 mmol, 70 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | (4S,5R)-4-(3,4-difluorophenyl)-5-(tetrahydropyran-2-yloxymethyl)-oxazolidin-2-one | 2.4 mmol, 750 mg, 80% | FC=1C=C(C=CC1F)[C@@H]1NC(O[C@H]1COC1OCCCC1)=O | C15H17F2NO4
